US09079866B2
A solution of 4-bromo-2-fluorobenzoic acid (10.8 g, 50.0 mmol) in SOCl2 (50 mL) was stirred at 70° Celsius for 1 hour. After cooling to rt, the resulting mixture was concentrated to give 4-bromo-2-fluorobenzoyl chloride as colorless oil, which was used directly in the next step without purification.

reactant | 4-bromo-2-fluorobenzoic acid | 50.0 mmol, 10.8 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | SOCl2 | 50 mL | O=S(Cl)Cl | Cl2OS
product | 4-bromo-2-fluorobenzoyl chloride | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
